US04904696
2.03 Grams of o-fluoronitrobenzene, 0.70 g of aluminum powder, 43 ml of water and 4.4 g of conc. sulfuric acid were added to a reactor and stirred at an inner temperature of from 90° to 95° C. for 40 minutes. After cooling the reaction solution, a 5% aqueous sodium hydrogencarbonate solution was added to make the reaction solution weakly alkaline. The reaction solution was then extracted with three 100-ml portions of diethyl ether. The ether layers were combined, dried and concentrated to obtain a crude product. This crude product was subjected to chromatography on silica gel to obtain 1.58 g of 3-fluoro-4-aminophenol.

reactant | o-fluoronitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | aluminum | 0.70 g | [Al] | Al
reactant | sulfuric acid | 4.4 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 43 ml | O | H2O
product | 3-fluoro-4-aminophenol | 1.58 g, Yield: 86% | FC=1C=C(C=CC1N)O | C6H6FNO
